US06825317B2
Step 3: Z-Aib-L-Phe-D-Pro-OtBu
H-L-Phe-D-Pro-OtBu (0.853 g, 2.68 mmol) and Z-Aib-OH (954 mg, 4.02 mmol) were condensed as described in Step 1 above. The oily product was purified by flash chromatography on silica gel (CHCl3/MeOH=99/1) to yield 1.23 g (85%) of the titled compound.

reactant | H-L-Phe-D-Pro-OtBu | 2.68 mmol, 0.853 g | N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OC(C)(C)C)CCC1 | C18H26N2O3
reactant | Z-Aib-OH | 4.02 mmol, 954 mg | N(C(C)(C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H15NO4
product | Z-Aib-L-Phe-D-Pro-OtBu | 1.23 g, 85% | N(C(C)(C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C30H39N3O6
